US05861417
2.5.3 Synthesis of (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine
Combine (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (200 mg, 0.44 mmol) and N-methylmorpholine (0.97 mmol) in toluene (10 mL). Add dropwise, methanesulfonyl chloride (0.066 g, 0.57 mmol). After 12 hours, dilute with toluene (20 mL) and extract with 1M hydrochloric acid solution and 5% sodium bicarbonate solution. Dry the organic layer over MgSO4, filter, and concentrate invacuo to give the title compound.

reactant | (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine | 0.44 mmol, 200 mg | COC1=C(C(=O)N2C[C@@](CC2)(CCO)C2=CC(=C(C=C2)Cl)Cl)C=C(C=C1)N1N=NN=C1 | C21H21Cl2N5O3
reactant | N-methylmorpholine | 0.97 mmol | CN1CCOCC1 | C5H11NO
reactant | methanesulfonyl chloride | 0.57 mmol, 0.066 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC1=C(C(=O)N2C[C@@](CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C=C1)N1N=NN=C1 | C22H23Cl2N5O5S
